US05585359
2-(4-Nitrophenyl)ethylamine (0.5 mmol) and p-nitrophenylchloroformate (0.5 mmol) were allowed to react in the presence of triethylamine (1 mmol) in 5 ml of DMF to provide 2-(4-nitrophenyl)ethyl isocyanate. Without isolation, the isocyanate was mixed with N-(2(S)-amino-4-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester dihydrochloride (0.4 mmol) and triethylamine (1 mmol) in 4 mL of DMF to provide the title compound. C34H45N5O6S.0.15 hexane

reactant | 2-(4-Nitrophenyl)ethylamine | 0.5 mmol | [N+](=O)([O-])C1=CC=C(C=C1)CCN | C8H10N2O2
reactant | triethylamine | 1 mmol | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(4-nitrophenyl)ethyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)CCN=C=O | C9H8N2O3
